US05955476
Part B. To a cold solution of 5 mL of 70% hydrogen fluoride in pyridine and 1.2 g (6.7 mmol) N-bromosuccinimide in 10 mL of ether is added a solution of dimethyl 2-diazopentane-1,5-dioate (1.1 g, 5.9 mmol) in ether (10 mL) at 0° C. The mixture is stirred at 0° C. for 30 minutes The solution is washed with water (20 mL), brine (20 mL) and dried over sodium sulfate. The solvent is removed in vacuo to yield dimethyl 2-bromo-2-fluoropentane-1,5-dioate which can be further purified by column chromatography.

reactant | hydrogen fluoride | 5 mL | F | FH
reactant | N-bromosuccinimide | 6.7 mmol, 1.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dimethyl 2-diazopentane-1,5-dioate | 5.9 mmol, 1.1 g | [N+](=[N-])=C(C(=O)OC)CCC(=O)OC | C7H10N2O4
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | ether | 10 mL | CCOCC | C4H10O
product | dimethyl 2-bromo-2-fluoropentane-1,5-dioate | BrC(C(=O)OC)(CCC(=O)OC)F | C7H10BrFO4
